US04113869
c. Preparation of (+)- 7 -methoxy- 2 -methyl- 4 -phenyl- 1,2,3,4 -tetrahydro isoquinoline
(+)- 7 -methoxy- 4 -phenyl- 1,2,3,4 tetrahydroisoquinoline (2.4 g) was dissolved in methanol (50 ml) and 35% formaldehyde solution (3 ml) was added. The solution was stirred at ambient temperature for two hours when Raney nickel (1 g) was added and the solution hydrogenated at Atmospheric Pressure. The catalyst was removed by filtration, washed with ethanol and the filtrate and washings evaporated under reduced pressure to give the title compound as a colourless oil. Treatment of the title compound with ethereal hydrogen chloride gave its hydrochloride salt (2.3 g), m.p. 242° - 3° C. (dec) (methanol-ether) [α]D25 + 21.8° (water).

reactant | (+)- 7 -methoxy- 4 -phenyl- 1,2,3,4 tetrahydroisoquinoline | 2.4 g | COC1=CC=C2C(CNCC2=C1)C1=CC=CC=C1 | C16H17NO
reactant | formaldehyde | 3 ml | C=O | CH2O
solvent | methanol | 50 ml | CO | CH4O
catalyst | Raney nickel | 1 g | [Ni] | Ni
product | (+)- 7 -methoxy- 2 -methyl- 4 -phenyl- 1,2,3,4 -tetrahydro isoquinoline | COC1=CC=C2C(CN(CC2=C1)C)C1=CC=CC=C1 | C17H19NO
